US08278345B2
Compound 127: 3-Hydroxy-1-(3-imidazol-1-yl-propyl)-4-(1H-indol-3-yl)-5-phenyl-1,5-dihydro-pyrrol-2-one
3-Imidazol-1-yl-propylamine (1 mmol) and Benzaldehyde (1 mmol) were added to ethanol (5 ml). After 30 min 3-(1H-Indol-3-yl)-2-oxo-propionic acid ethyl ester (1 mmol) was added. The reaction was heated to 50° C. and stirred for 24 h. After evaporation of the solvent the residue was purified with chromatographic methods.

reactant | 3-Imidazol-1-yl-propylamine | 1 mmol | N1(C=NC=C1)CCCN | C6H11N3
reactant | Benzaldehyde | 1 mmol | C(C1=CC=CC=C1)=O | C7H6O
reactant | 3-(1H-Indol-3-yl)-2-oxo-propionic acid ethyl ester | 1 mmol | C(C)OC(C(CC1=CNC2=CC=CC=C12)=O)=O | C13H13NO3
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 3-Hydroxy-1-(3-imidazol-1-yl-propyl)-4-(1H-indol-3-yl)-5-phenyl-1,5-dihydro-pyrrol-2-one | OC=1C(N(C(C1C1=CNC2=CC=CC=C12)C1=CC=CC=C1)CCCN1C=NC=C1)=O | C24H22N4O2
